US05519138
2-n-Butyl-4-hydroxymethyl-5-chloro-1-[4-[(1-carboxy-2-cyclohexyl)ethoxy]benzyl]imidazole
Prepared analogously to Example 1b from 2-n-butyl-4-hydroxymethyl-5-chloro-1-[4-[(1-methoxycarbonyl-2-cyclohexyl)ethoxy]benzyl]imidazole and 1N sodium hydroxide solution in ethanol.

reactant | 2-n-butyl-4-hydroxymethyl-5-chloro-1-[4-[(1-methoxycarbonyl-2-cyclohexyl)ethoxy]benzyl]imidazole | C(CCC)C=1N(C(=C(N1)CO)Cl)CC1=CC=C(C=C1)OCCC1C(CCCC1)C(=O)OC | C25H35ClN2O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Butyl-4-hydroxymethyl-5-chloro-1-[4-[(1-carboxy-2-cyclohexyl)ethoxy]benzyl]imidazole | C(CCC)C=1N(C(=C(N1)CO)Cl)CC1=CC=C(C=C1)OCCC1C(CCCC1)C(=O)O | C24H33ClN2O4
